US04379861
(G) Morpholinopropylpyrrolidine
143 g (1 mol) of 3-morpholinopropionaldehyde in 143 g of dioxane are pumped into 71 g (1 mol) of pyrrolidine and 40 g of Raney nickel at 120° C. and hydrogenated at 160 bar. The reaction mixture is suction filtered, concentrated by evaporation and distilled. B.p. 0.1 : 82° C., purity according to gas chromatogram: 94.5%. Yield: 51 g; molar mass found: 196 v. the molecular weight calculated for C11H22N2O: 198.

reactant | 3-morpholinopropionaldehyde | 1 mol, 143 g | O1CCN(CC1)CCC=O | C7H13NO2
reactant | pyrrolidine | 1 mol, 71 g | N1CCCC1 | C4H9N
solvent | dioxane | 143 g | O1CCOCC1 | C4H8O2
catalyst | Raney nickel | 40 g | [Ni] | Ni
product | Morpholinopropylpyrrolidine | O1CCN(CC1)CCCN1CCCC1 | C11H22N2O
